US04008217
A quantity (15.9 g.; 0.07 mole) of pivalic acid (4-chlorophenyl)hydrazide and 15.3 g. (0.0735 mole) of phosphorus pentachloride were stirred together in 100 ml. of carbon tetrachloride. The suspension was heated at the reflux temperature for 15 min., when the evolution of hydrogen chloride ceased. The reaction mixture was cooled to about 5° C. and 22.2 g. (0.236 mole) of phenol was added. After the evolution of hydrogen chloride had ceased the carbon tetrachloride was removed by evaporation under reduced pressure and the residual oil was chromatographed on 1 kg. of silica gel. Elution of the column with equal parts of benzene and technical hexane and evaporation of the solvent mixture from the eluate gave pivaloyl chloride (4-chlorophenyl)hydrazone which was recrystallized from petroleum ether. The product thus obtained had a melting point of 42° to 43° C.

reactant | pivalic acid (4-chlorophenyl)hydrazide | 0.07 mole, 15.9 g | ClC1=CC=C(C=C1)N(N)C(C(C)(C)C)=O | C11H15ClN2O
reactant | phosphorus pentachloride | 0.0735 mole | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | hydrogen chloride | Cl | ClH
reactant | phenol | 0.236 mole | C1(=CC=CC=C1)O | C6H6O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | pivaloyl chloride (4-chlorophenyl)hydrazone | ClC1=CC=C(C=C1)NN=C(C(C)(C)C)Cl | C11H14Cl2N2
